US04160838
A mixture of 7.1 parts of 1-[2-(2,4-dichlorophenyl)-2,2-dimethoxyethyl]-1H-1,2,4-triazole 4-methylbenzenesulfonate, 1.5 parts of (2S,3S)-(+)-2,3-butanediol, 0.7 parts of 4-methylbenzenesulfonic acid and 68 parts of methylbenzene is stirred and refluxed for 3 days. The reaction mixture is cooled and alkalized with a sodium hydroxide solution 20%. The whole is poured onto water and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using ethyl acetate as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of 2,2'-oxybispropane and petroleumether (1:1 by volume). The product is filtered off and dried, yielding 1.5 parts (31%) of (+)-(4S,trans)-1-[2-(2,4-dichlorophenyl)-4,5-dimethyl-1,3-dioxolan-2-ylmethyl]-1H-1,2,4-triazole; mp. 82.7° C.; [α]D =+30.47° (c=0.5 % CHCl3).

reactant | 1-[2-(2,4-dichlorophenyl)-2,2-dimethoxyethyl]-1H-1,2,4-triazole 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)O.ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(OC)OC
reactant | (2S,3S)-(+)-2,3-butanediol | C[C@@H]([C@H](C)O)O | C4H10O2
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | (+)-(4S,trans)-1-[2-(2,4-dichlorophenyl)-4,5-dimethyl-1,3-dioxolan-2-ylmethyl]-1H-1,2,4-triazole | 31% | ClC1=C(C=CC(=C1)Cl)C1(O[C@H]([C@@H](O1)C)C)CN1N=CN=C1 | C14H15Cl2N3O2
